US07820673B2
141a) tert-butyl 4-((2-amino-1,3-thiazol-4-yl)methyl)piperazine-1-carboxylate
A solution of Boc-piperazine (4.67 g), 2-amino-4-chloromethylthiazole hydrochloride (WO 0190090; 5.1 g) and potassium carbonate (8.4 g) in DMF (100 ml) was mixed at 65° C. for 12 hours. The precipitated insolubles were filtered off, and then the filtrate was concentrated under reduced pressure. The residue was purified with silica gel column to obtain the title compound as a brown solid (5.6 g, 74%).

reactant | Boc-piperazine | 4.67 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 2-amino-4-chloromethylthiazole hydrochloride | 5.1 g | Cl.NC=1SC=C(N1)CCl
reactant | potassium carbonate | 8.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-((2-amino-1,3-thiazol-4-yl)methyl)piperazine-1-carboxylate | 5.6 g, 74% | NC=1SC=C(N1)CN1CCN(CC1)C(=O)OC(C)(C)C | C13H22N4O2S
